US04707559
3-[2-(methoxy)-4-(1,1-dimethylheptyl)-6-(ethoxy)phenyl]-cyclohexanone (IIIa)
1-Methoxy-3-(1,1-dimethylheptyl)-5-ethoxybenzene (IIa) (1500 mg, 5.4 mmol) was dissolved in dry ether (25 ml) and the solution was cooled to 0° C. The reaction was placed under nitrogen and butyl lithium (5.94 mmol, 3.6 ml of a solution in hexane) was injected into the reaction. The reaction mixture was brought to room temperature, and was stirred for 4 hrs. Cuprous bromide (360 mg, 2.5 mmol) was added in one portion. The reaction mixture turned dark and became homogeneous. After stirring for 5 min, 2-cyclohexanone (240 mg, 2.5 mmol) was injected into the solution, and the reaction mixture was stirred for 15 min at 0°. Ether (50 ml) and a saturated ammonium chloride solution (150 ml) were added. The organic layer was washed with brine, dried and evaporated to dryness. The oil obtained was purified by medium pressure liquid chromatography (230-400 mesh ASTM, silica gel 60" for column chromatography; elution with petroleum ether, b.p. 60°-80°) to yield the title compound, IIIa (66%).

reactant | 1-Methoxy-3-(1,1-dimethylheptyl)-5-ethoxybenzene | 5.4 mmol, 1500 mg | COC1=CC(=CC(=C1)OCC)C(CCCCCC)(C)C | C18H30O2
reactant | butyl lithium | C(CCC)[Li]
reactant | 2-cyclohexanone | 2.5 mmol, 240 mg | C1C(CCCC1)=O | C6H10O
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | Ether | 50 ml | CCOCC | C4H10O
product | 3-[2-(methoxy)-4-(1,1-dimethylheptyl)-6-(ethoxy)phenyl]-cyclohexanone | COC1=C(C(=CC(=C1)C(CCCCCC)(C)C)OCC)C1CC(CCC1)=O | C24H38O3
